US04100163
Part A--Preparation of 8-amino-5-nitroquinoline
To a five liter round bottom flask fitted with an air stirrer, condenser, addition funnel, thermometer and hot water bath were charged 40 g. (.23 mole) 5-nitroquinoline and 100 g. (1.44 mole) hydroxylamine hydrochloride. Then 1950 ml. of 95% EtOH was added and the solids dissolved after which 200 g. KOH in 1200 ml. MeOH was added over a 50 minute period at 54°-57° C. The mixture was allowed to stir at 55° C. for an additional hour and then dumped into 10 liters of water, allowed to cool and filtered. An orange solid was crystallized out of 95% ethanol. Such product was 8-amino-5-nitroquinoline.

reactant | 5-nitroquinoline | .23 mole | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1 | C9H6N2O2
reactant | hydroxylamine hydrochloride | 1.44 mole | Cl.NO
reactant | KOH | [OH-].[K+]
solvent | water | 10 liters | O | H2O
solvent | MeOH | CO | CH4O
solvent | EtOH | CCO | C2H6O
product | 8-amino-5-nitroquinoline | NC=1C=CC(=C2C=CC=NC12)[N+](=O)[O-] | C9H7N3O2
